US07713979B2
3-(2,4-dichlorobenzyl)-1-(4-hydroxy-1-methylcyclohexyl)pyrrolidin-2-one
Dissolve 4-(3-(2,4-dichlorobenzyl)-2-oxopyrrolidin-1-yl)-4-methylcyclohexyl 4-nitrobenzoate (Preparation 57) (0.38 g, 0.76 mmol) in MeOH (50 mL). Add K2CO3 (0.21 g, 1.52 mmol) and stir the reaction overnight at room temperature. Add water (50 mL) and extract the aqueous with EtOAc (3×100 mL). Combine the organic layers and dry with Na2SO4, filter, concentrate and purify by flash column chromatography (silica gel, 50-80% of EtOAc/Hexane) to give 0.24 g (91%) of the title compound as a white solid. MS (APCI-pos mode) m/z (rel intensity) 356.0 (100), 358.0 (60).

reactant | 4-(3-(2,4-dichlorobenzyl)-2-oxopyrrolidin-1-yl)-4-methylcyclohexyl 4-nitrobenzoate | 0.76 mmol, 0.38 g | [N+](=O)([O-])C1=CC=C(C(=O)OC2CCC(CC2)(C)N2C(C(CC2)CC2=C(C=C(C=C2)Cl)Cl)=O)C=C1 | C25H26Cl2N2O5
reactant | K2CO3 | 1.52 mmol, 0.21 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 50 mL | CO | CH4O
product | 3-(2,4-dichlorobenzyl)-1-(4-hydroxy-1-methylcyclohexyl)pyrrolidin-2-one | 0.24 g, 91% | ClC1=C(CC2C(N(CC2)C2(CCC(CC2)O)C)=O)C=CC(=C1)Cl | C18H23Cl2NO2
